US07521461B2
a) Methyl 2-[(4-{2-[(tert-butoxycarbonyl)amino]ethyl}phenoxy)methyl]benzoate
tert-Butyl 2-(4-hydroxyphenyl)ethylcarbamate (3.534 g, 14.9 mmol), 2-bromomethyl-benzoic acid methyl ester (3.582 g, 15.6 mmol) and potassium carbonate, anhydrous (3.087 g, 22.3 mmol) were mixed in acetonitrile (50 ml). The mixture was heated to reflux overnight and then evaporated to dry. Water and ethyl acetate were added and the two phases were separated. The organic phase was dried (magnesium sulphate) and evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 20 g/70 ml) using DCM and then MeOH/DCM (1:99) as eluant gave 5.427 g the desired product, yield 94.5%.

reactant | tert-Butyl 2-(4-hydroxyphenyl)ethylcarbamate | 14.9 mmol, 3.534 g | OC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C13H19NO3
reactant | 2-bromomethyl-benzoic acid methyl ester | 15.6 mmol, 3.582 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | potassium carbonate, anhydrous | 22.3 mmol, 3.087 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Methyl 2-[(4-{2-[(tert-butoxycarbonyl)amino]ethyl}phenoxy)methyl]benzoate | 5.427 g, yield 94.5% | C(C)(C)(C)OC(=O)NCCC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1 | C22H27NO5
